US06747023B1
1-tert-Butoxycarbonyl-4-[(5-chloroindol-2-yl)sulfonyl]-2-[(N-methylsulfonylcarbamoyl)methyl]piperazine
In tetrahydrofuran (10 ml) was dissolved 1-tert-butoxycarbonyl-2-carboxymethyl-4-[(5-chloroindol-2-yl)sulfonyl]piperazine (1.00 g), followed by the addition of carbonyldiimidazole (1.06 g). The resulting mixture was heated overnight under reflux. After cooling to room temperature, methanesulfonamide (415 mg) and 1,8-diazabicyclo[5.4.0]-7-undecene (0.64 ml) were added, followed by stirring at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure. Dichloromethane was added to the residue and the resulting mixture was washed successively with 1N hydrochloric acid, and saturated aqueous NaCl solution. The organic layer was dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (Φ3.0×10.0 cm, dichloromethane:methanol=100:1), whereby the title compound (518 mg, 44%) was obtained as colorless foam.

reactant | 1-tert-butoxycarbonyl-2-carboxymethyl-4-[(5-chloroindol-2-yl)sulfonyl]piperazine | 1.00 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)S(=O)(=O)C=1NC2=CC=C(C=C2C1)Cl)CC(=O)O | C19H24ClN3O6S
reactant | carbonyldiimidazole | 1.06 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methanesulfonamide | 415 mg | CS(=O)(=O)N | CH5NO2S
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 0.64 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-tert-Butoxycarbonyl-4-[(5-chloroindol-2-yl)sulfonyl]-2-[(N-methylsulfonylcarbamoyl)methyl]piperazine | C(C)(C)(C)OC(=O)N1C(CN(CC1)S(=O)(=O)C=1NC2=CC=C(C=C2C1)Cl)CC(NS(=O)(=O)C)=O | C20H27ClN4O7S2
